US09107964B2
1.03 g (3.24 mmol equivalents) of diethyl 2-(2-benzyloxyethyl)-2-hydroxymethylmalonate was dissolved in 10 mL of methanol, and this was added dropwise to 1.69 g (44.6 mmol equivalents) of sodium borohydride over 20 minutes. This was refluxed while heating overnight and then cooled to room temperature (25° C.). Water was added to the reaction liquid, and a reaction was carried out for 30 minutes. The reaction liquid was washed with chloroform, and the aqueous phase was concentrated under vacuum. 100 mL of ethanol was added to the obtained residue, and the mixture was refluxed while heating for 2 hours. Immediately after completion of the reaction, the mixture was subjected to silica gel column chromatography (eluent: ethanol) to give 543 mg of 4-benzyloxy-2,2-dihydroxymethylbutanol as an crude product.

reactant | diethyl 2-(2-benzyloxyethyl)-2-hydroxymethylmalonate | 3.24 mmol, 1.03 g | C(C1=CC=CC=C1)OCCC(C(=O)OCC)(C(=O)OCC)CO | C17H24O6
reactant | sodium borohydride | 44.6 mmol, 1.69 g | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | 10 mL | CO | CH4O
product | 4-benzyloxy-2,2-dihydroxymethylbutanol | 543 mg | C(C1=CC=CC=C1)OCCC(CO)(CO)CO | C13H20O4
